US05643932
A suspension of 1 g of 2-(3,4-diethoxyphenyl)-4-(3-ethyl-4-hydroxyphenyl)thiazole, 1 g of paraformaldehyde and 1.1 g of dimethylamine hydrochloride in 20 ml of ethanol was stirred at 100° C. for 4 hours with heating. The solvent was distilled off. The residue was mixed with 20 ml of water and 30 ml of ethyl acetate for extraction and phase separation. The ethyl acetate layer was extracted with 10% hydrochloric acid (20 ml×3). The combined aqueous layer was made basic with 10% sodium hydroxide and extracted with dichloromethane. The extract was washed with 20 ml of a saturated aqueous sodium chloride solution, dried and subjected to distillation to remove the solvent. The residue was purified by silica gel column chromatography (eluent: dichloromethane/methanol =49/1). The product was dissolved in acetone, mixed with hydrochloric acid-methanol and heated. The resulting crystals were collected by filtration, dried and recrystallized from acetone to obtain 117 mg of 2-(3,4-diethoxyphenyl)-4-(3-ethyl-4-hydroxyphenyl)-5-dimethylaminomethylthiazole dihydrochloride.

reactant | 2-(3,4-diethoxyphenyl)-4-(3-ethyl-4-hydroxyphenyl)thiazole | 1 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=CC(=C(C=C1)O)CC | C21H23NO3S
reactant | paraformaldehyde | 1 g | C=O | CH2O
reactant | dimethylamine hydrochloride | 1.1 g | Cl.CNC
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(3,4-diethoxyphenyl)-4-(3-ethyl-4-hydroxyphenyl)-5-dimethylaminomethylthiazole dihydrochloride | 117 mg | Cl.Cl.C(C)OC=1C=C(C=CC1OCC)C=1SC(=C(N1)C1=CC(=C(C=C1)O)CC)CN(C)C | InChI=1S/C24H30N2O3S.2ClH/c1-6-16-13-17(9-11-19(16)27)23-22(15-26(4)5)30-24(25-23)18-10-12-20(28-7-2)21(14-18)29-8-3;;/h9-14,27H,6-8,15H2,1-5H3;2*1H
